US04386146
Synthesis of 1-ethyl-4-[5-{3-(2-carboxyethyl)-6-methylbenzothiazolin-2-ylidene}-1,3-pentadien-1-yl]-quinolinium bromide (Compound No. 21)
To reaction were subjected 3.7 g of 3-(2-carboxyethyl)-2,6-dimethylbenzothiazolium bromide, 4.3 g of 4-(4-anilino-1,3-butadien-1-yl)-1-ethylquinolinium bromide, 150 ml of ethanol and 5 ml of triethylamine under reflux for one hour. After completion of the reaction, the reaction product was cooled, and the crude crystals thus obtained were purified by means of methanol to obtain 0.9 g of the objective compound (melting point 190° C.) which was glittering green. Its maximum absorption wavelength as measured in triethylamine-containing methanol was 740 nm.

reactant | 3-(2-carboxyethyl)-2,6-dimethylbenzothiazolium bromide | 3.7 g | [Br-].C(=O)(O)CC[N+]1=C(SC2=C1C=CC(=C2)C)C
reactant | 4-(4-anilino-1,3-butadien-1-yl)-1-ethylquinolinium bromide | 4.3 g | [Br-].N(C1=CC=CC=C1)C=CC=CC1=CC=[N+](C2=CC=CC=C12)CC
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | 1-ethyl-4-[5-{3-(2-carboxyethyl)-6-methylbenzothiazolin-2-ylidene}-1,3-pentadien-1-yl]-quinolinium bromide | 0.9 g | [Br-].C(C)[N+]1=CC=C(C2=CC=CC=C12)C=CC=CC=C1SC2=C(N1CCC(=O)O)C=CC(=C2)C | InChI=1S/C27H26N2O2S.BrH/c1-3-28-17-15-21(22-10-7-8-11-23(22)28)9-5-4-6-12-26-29(18-16-27(30)31)24-14-13-20(2)19-25(24)32-26;/h4-15,17,19H,3,16,18H2,1-2H3;1H
